US07858817B2
See Scheme 1. Toluene (500 mL) was added to a mixture of 2-bromo-6-pyridinecarboxaldehyde (16.25 g, 87.36 mmol, purchased from Sigma-Aldrich), ferrocenylboronic acid (24.10 g, 104.9 mmol, purchased from Sigma-Aldrich), and (dppf)PdCl2.CH2Cl2 (2.14 g, 2.62 mmol, purchased from Strem), under a nitrogen atmosphere. Then a nitrogen-sparged solution of Na2CO3 (210 mL, 210 mmol) in 4:1 water:methanol was added. The biphasic mixture was heated to 60° C. After 1 hour, the solution was heated to 80° C. for one week. The mixture was then filtered and the organics were separated and dried over MgSO4. Evaporation yielded the crude 6-ferrocenyl-2-pyridinecarboxaldehyde which was purified on SiO2 using 3:1 to 4:1 CH2Cl2:hexane as the elutant. Yield: 6.02 g, 23.7%. 1H NMR (C6D6): δ 10.18 (1H, s), 7.58 (1H, d), 8.03-6.85 (2H, m), 4.91 (2H, m), 4.20 (2H, m), 3.86 (5H, s).

reactant | 2-bromo-6-pyridinecarboxaldehyde | 87.36 mmol, 16.25 g | BrC1=NC(=CC=C1)C=O | C6H4BrNO
reactant | ferrocenylboronic acid | 104.9 mmol, 24.10 g | [C-]1(C=CC=C1)B(O)O.[CH-]1C=CC=C1.[Fe+2]
reactant | CH2Cl2 | 2.62 mmol, 2.14 g | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 210 mmol, 210 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | (dppf)PdCl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | Toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 6-ferrocenyl-2-pyridinecarboxaldehyde | [C-]1(C=CC=C1)C1=CC=CC(=N1)C=O.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C11H8NO.C5H5.Fe/c13-8-10-6-3-7-11(12-10)9-4-1-2-5-9;1-2-4-5-3-1;/h1-8H;1-5H;/q2*-1;+2
